US06919331B2
To a cooled (0° C.) solution of 2-(3-cyclopropyl-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazole-5-carboxylic acid (77 mg, 0.17 mmol) and N-methyl morpholine (23 μL, 0.21 mmol) in DCM (3 mL) was added isobutyl chloroformate (27 μL, 0.21 mmol. The mixture was allowed to warm to room temperature and stirred for 2 hrs. After concentration and trituration with ethyl acetate the solid was removed by filtration and the filtrate concentrated in vacuo. The residue containing the mixed anhydride was dissolved in THF (3 mL) and added to a stirred and cooled (0° C.) solution of sodium borohydride (65 mg, 1.7 mmol) in water. The mixture was allowed to warm to room temperature and stirred for 3 hrs., followed by quenching with satd. Na/K tartrate and stirring overnight. The mixture was extracted with ethyl acetate (3×10 mL), the combined organic phases washed with brine and dried (MgSO4). Purification by flash chromatography (eluent 2%, 5% methanol in DCM) afforded 3-cyclopropyl-1-[5-hydroxymethyl-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-1H-quinazoline-2,4-dione (39 mg, 52%) as a white solid.

reactant | 2-(3-cyclopropyl-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazole-5-carboxylic acid | 0.17 mmol, 77 mg | C1(CC1)N1C(N(C2=CC=CC=C2C1=O)CC1=NC2=C(N1CCC(C)C)C=CC(=C2)C(=O)O)=O | C25H26N4O4
reactant | N-methyl morpholine | 0.21 mmol, 23 μL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium borohydride | 1.7 mmol, 65 mg | [BH4-].[Na+]
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-cyclopropyl-1-[5-hydroxymethyl-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-1H-quinazoline-2,4-dione | 39 mg, 52% | C1(CC1)N1C(N(C2=CC=CC=C2C1=O)CC1=NC2=C(N1CCC(C)C)C=CC(=C2)CO)=O | C25H28N4O3
